US09382228B2
A mixture of N-((5-((2-chloropyridin-4-yl)oxy)pyridin-2-yl)carbamoyl)tetrahydro-2H-pyran-4-carboxamide (0.334 g, 0.886 mmol), NaHCO3 (0.149 g, 1.773 mmol) and 2-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.233 g, 1.064 mmol) in dioxane (4 mL) and water (1 mL) was sparged with Ar under sonication for 5 minutes, treated with Pd(PPh3)4 (0.102 g, 0.089 mmol), sparged again with Ar and heated at 95° C. overnight. The mixture was cooled to RT, diluted with THF and washed with brine. The aqueous layer was back-extracted with THF (3×) and the combined organics were dried over Na2SO4 and concentrated to dryness. The material was treated with MeCN and sonicated. The solids were collected via filtration and purified via silica gel chromatography (MeOH/EtOAc) to afford N-((5-((6′-methyl-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)tetrahydro-2H-pyran-4-carboxamide (50 mg, 13%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.06 (s, 1H), 10.88 (s, 1H), 9.10 (d, J=2.3 Hz, 1H), 8.55 (d, J=5.7 Hz, 1H), 8.30-8.26 (m, 2H), 8.09 (d, J=9.0 Hz, 1H), 7.76 (dd, J=9.0, 2.9 Hz, 1H), 7.63 (d, J=2.4 Hz, 1H), 7.33 (d, J=8.2 Hz, 1H), 6.89 (dd, J=5.7, 2.4 Hz, 1H), 3.91-3.85 (m, 2H), 3.33-3.26 (m, 2H), 2.73-2.64 (m, 1H), 2.50 (s, 3H), 1.75-1.68 (m, 2H), 1.67-1.56 (m, 2H); MS (ESI) m/z: 432.1 (M−H+).

reactant | N-((5-((2-chloropyridin-4-yl)oxy)pyridin-2-yl)carbamoyl)tetrahydro-2H-pyran-4-carboxamide | 0.886 mmol, 0.334 g | ClC1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(=O)C1CCOCC1 | C17H17ClN4O4
reactant | NaHCO3 | 1.773 mmol, 0.149 g | C(=O)(O)[O-].[Na+]
reactant | 2-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.064 mmol, 0.233 g | CC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.089 mmol, 0.102 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-((5-((6′-methyl-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)tetrahydro-2H-pyran-4-carboxamide | 50 mg, 13% | CC1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(=O)C1CCOCC1 | C23H23N5O4
